US04204067
A mixture of 8.5 grams of analytically pure 5-nitroso-6-phenylimidazo[2,1-b]thiazole (0.04 mole) and 10 ml. of triethylphosphite (0.05 mole) in 50 ml. of anhydrous toluene is refluxed for three hours with constant stirring and under a constant flow of dry nitrogen. The temperature of the oil bath is kept between 110° and 120° C. After cooling, the toluene and excess triethyl phosphite are removed by vacuum distillation at 0.2 Torr. The temperature of the oil bath is kept under 120° C. also during the distillation. The residue which is a thick oily liquid is kept over night at 0° C., during which time it solidifies. The solid is washed on a glass filter with cold carbon tetrachloride and then recrystallized twice from 2-propanol to yield three grams of 5H-thiazolo[2',3':2,3]imidazo[4,5-b]indole.

reactant | 5-nitroso-6-phenylimidazo[2,1-b]thiazole | 0.04 mole | N(=O)C1=C(N=C2SC=CN21)C2=CC=CC=C2 | C11H7N3OS
reactant | triethylphosphite | 0.05 mole | C(C)OP(OCC)OCC | C6H15O3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5H-thiazolo[2',3':2,3]imidazo[4,5-b]indole | three grams | S1C=CN2C1=NC1=C2NC=2C=CC=CC12 | C11H7N3S
